US04889869
(b) 2-(2-thiazolinylthio)-hydrocinnamic acid ethyl ester
1.4 ml of triethylamine are added dropwise to a solution of 1.8 g of 2-mercapto-1,3-thiazoline and 2.6 g of 2-bromo-hydrocinnamic acid ethyl ester in 15 ml of THF and the whole is stirred under reflux for 6 hours. The reaction mixture is filtered, the filtrate is concentrated by evaporation and the residue is partitioned between ethyl acetate and water. The organic phase is washed with water, dried, concentrated by evaporation and purified by chromatography on silica gel with eluant R. Rf (W)=0.67.

reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-mercapto-1,3-thiazoline | 1.8 g | SC=1SCCN1 | C3H5NS2
reactant | 2-bromo-hydrocinnamic acid ethyl ester | 2.6 g | C(C)OC(CCC1=C(C=CC=C1)Br)=O | C11H13BrO2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(2-thiazolinylthio)-hydrocinnamic acid ethyl ester | C(C)OC(CCC1=C(C=CC=C1)SC=1SCCN1)=O | C14H17NO2S2
